US04970207
A mixture of (3RS)-1-acetylmethyl-1,3-dihydro-3-(2- indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one (0.42 g), hydroxylamine hydrochloride (62.5 mg) in ethanol (20 ml) was stirred at room temperature for 40 hours. The mixture was evaporated to dryness and the residue was subjected to column chromatography on silica gel with an eluent of a mixture of chloroform and methanol (40:1). The fractions containing the objective product were combined and evaporated to give a pale green oil, which was pulverized in diisopropyl ether to afford (3RS)-1-(2-hydroxyiminopropyl)-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one (177 mg).

reactant | (3RS)-1-acetylmethyl-1,3-dihydro-3-(2- indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | 0.42 g | C(C)(=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C27H22N4O3
reactant | hydroxylamine hydrochloride | 62.5 mg | Cl.NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | (3RS)-1-(2-hydroxyiminopropyl)-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | 177 mg | ON=C(CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O)C | C27H23N5O3
